US07947683B2
4-methyl-3-(4-methyl-1,3-thiazol-5-yl)-5-(4-penten-1-yl)-4H-1,2,4-triazole
The title compound was prepared in analogy to Preparation 11 in 0.31 g yield starting from 2,4-dimethyl-thiazole-5-carboxylic acid hydrazide (0.52 g) and N,N′-dimethyl-5-hexenimidamide hydrochloride (0.58 g). MS (m/z): 249 [MH]+.

reactant | 2,4-dimethyl-thiazole-5-carboxylic acid hydrazide | 0.52 g | CC=1SC(=C(N1)C)C(=O)NN | C6H9N3OS
reactant | N,N′-dimethyl-5-hexenimidamide hydrochloride | 0.58 g | Cl.CNC(CCCC=C)=NC
product | 4-methyl-3-(4-methyl-1,3-thiazol-5-yl)-5-(4-penten-1-yl)-4H-1,2,4-triazole | CN1C(=NN=C1CCCC=C)C1=C(N=CS1)C | C12H16N4S
